US07777047B2
N-(2-{5-[(4-acetylpiperazin-1-yl)methyl]-1,3-thiazol-2-yl}-1H-indol-7-yl)-N-(cyclopropylmethyl)thiophene-2-sulfonamide
A mixture of N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-(cyclopropylmethyl)thiophene-2-sulfonamide (100 mg), triethylamine (60 μL), 1-acetylpiperazine (55 mg) and N,N-dimethylformamide (3 ml) was stirred at room temperature for 16 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (91 mg, yield 76%) as colorless crystals from a fraction eluted with ethyl acetate. MS 556 (M+1).

reactant | N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-(cyclopropylmethyl)thiophene-2-sulfonamide | 100 mg | ClCC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)CC1CC1 | C20H18ClN3O2S3
reactant | triethylamine | 60 μL | C(C)N(CC)CC | C6H15N
reactant | 1-acetylpiperazine | 55 mg | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-(2-{5-[(4-acetylpiperazin-1-yl)methyl]-1,3-thiazol-2-yl}-1H-indol-7-yl)-N-(cyclopropylmethyl)thiophene-2-sulfonamide | 91 mg, yield 76% | C(C)(=O)N1CCN(CC1)CC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)CC1CC1 | C26H29N5O3S3
